US07649197B2
24.3 g (100 mmol) of 9-phenylcarbazole was dissolved in 600 mL of glacial acetic acid, 22.5 g (100 mmol) of N-iodosuccinimide was slowly added thereto, and the mixture was then stirred overnight at a room temperature. The obtained precipitate was filtered, and the residue was washed with a saturated sodium hydrogen carbonate water solution, water, and methanol and then dried. 24.7 g (yield: 67%) of 3-iodo-9-phenylcarbazole which was white powder, was obtained.

reactant | 9-phenylcarbazole | 100 mmol, 24.3 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H13N
reactant | N-iodosuccinimide | 100 mmol, 22.5 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 600 mL | C(C)(=O)O | C2H4O2
product | 3-iodo-9-phenylcarbazole | 24.7 g, yield: 67% | IC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C18H12IN
